Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right sided chest pain with radiation to his neck
 
Major Surgical or Invasive Procedure:
___ Coronary angiogram with PCI
Critical proximal LAD stenosis, s/p single DES.

 
History of Present Illness:
___ year old man with hypertension, daily ETOH, admitted to ___ 
___ on ___ with c/o several days of right sided chest pain 
radiating to neck when operating heavy machinery. 

 
Past Medical History:
hypertension
ETOH use ___ /day
subarachnoid bleed ___

 
Social History:
Social/Occupational History: lives with wife; has a daughter;
works full-time operating ___; ___ ETOH drinks daily

Former smoker

Occasional marijuana use
 
Physical Exam:
Admission:
no c/o discomfort
VS 150/88     tele SR 70
Lungs: CTA ant/lat
Heart: RRR-MRG
PV: R Radial access site without bleeding or hematoma. + pleth
with good CSM.

Discharge:
152/91, 60, 18, 99% ra, 98.7
VS 150/88 
tele SR 56-71
EKG: SR 71 0.18/0.10/0.45 
 TWI leads I, AvL and V2-V5. prior slight ST depressions in V4 
and V5 resolved V5 TWI is new.
Denies CP, throat pain, SOB, LH
Lungs: CTA anterior and posterior breathing regular and 
unlabored
Heart: RRR, no MRG
PV: R Radial access site without bleeding or hematoma. + pleth
with good CSM. No edema. feet cool and nail beds slightly dusky 
but DP easily palpated

 
Pertinent Results:
___ 08:30AM BLOOD Triglyc-118 HDL-52 CHOL/HD-3.6 
LDLcalc-111
___ 08:30AM BLOOD %HbA1c-6.0 eAG-126
___ 08:30AM BLOOD Calcium-9.5 Phos-2.4* Cholest-187
___ 12:58AM BLOOD cTropnT-4.78*
___ 08:30AM BLOOD cTropnT-2.09*
___ 12:58AM BLOOD K-4.9
___ 08:30AM BLOOD Glucose-160* UreaN-14 Creat-1.0 Na-139 
K-4.5 Cl-98 HCO3-26 AnGap-15
___ 12:58AM BLOOD Plt ___
___ 08:30AM BLOOD Plt ___
___ 08:30AM BLOOD Neuts-74.6* Lymphs-15.2* Monos-7.1 
Eos-1.9 Baso-0.6 Im ___ AbsNeut-6.76* AbsLymp-1.37 
AbsMono-0.64 AbsEos-0.17 AbsBaso-0.05
___ 08:30AM BLOOD WBC-9.0 RBC-4.67 Hgb-14.8 Hct-44.1 MCV-94 
MCH-31.7 MCHC-33.6 RDW-12.8 RDWSD-44.0 Plt ___
 
Brief Hospital Course:
Presented to ___ just prior to midnight on ___ with c/o 
several days of right sided chest pain radiating to neck when 
operating heavy machinery. Initial troponins #1 < 0.01, then 
0.02. He reported atypical chest pain through the night and 
morning which resolved with SL Nitroglycerin.
He was then transferred to ___ in the afternoon of ___ where 
a coronary angiogram revealed a 90% blockage of his LAD and he 
underwent a successful PCI with DES via right radial access.
His troponin peaked overnight to 4.78 but he was asymptomatic 
and troponin had trended down to 2.09.
His ___ am labs were also notable for a glucose of 160. A 
hemoglobin A1C was sent and returned at 6.0. He was given 
instruction on his increased risk for diabetes and risk factor 
modification. He was discharged on ___ with plan for follow up 
with PCP and cardiologist.

Plan:
#NSTEMI/CAD
s/p PCI with DES to LAD via right radial access on ___. 
Troponins peaked at 4.78.
___ score ___
S/P PCI with ___ 
 -Aspirin 81 mg daily for life
 -ticagrelor BID uninterrupted x 12 months 
 -Continue home losartan and metoprolol tartrate
 -Start atorva 80 mg
 -script provided for cardiac rehab
 -Heart healthy diet including decreased alcohol consumption
 -Follow up scheduled with Dr. ___ 

#Hyperglycemia/prediabetes:
 -glucose on ___ am lab 160
 -add on A1C 6.0
 -Pt instructed on increased risk for DM development and risk 
factor modification
 -Follow up with PCP

#HTN: 
Blood pressures intermittently elevated here. With activity DBP 
up to low 100's. SBP 150's at times.
-Continue max dose Losartan 100mg daily
-HR ranging 56-71 so Continue Metoprolol Tartrate at 50mg BID
-If remains hypertensive on follow up would consider changing 
Metoprolol to Carvedilol vs adding third agent

#HLD:
___ lipids: TC:187 Tri 118 HDL 52 LDL 111
-Atorvastatin 80mg daily started
-Follow up lipids and LFTs in 6 weeks

Transitional:
-If remains hypertensive on follow up would consider changing 
Metoprolol to Carvedilol vs adding third agent
-Echo as outpt
-Follow up lipids and LFTs in 6 weeks
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Metoprolol Tartrate 50 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis  
3.  Aspirin 81 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Metoprolol Tartrate 50 mg PO BID  
7.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
coronary artery disease
hypertension

 
Discharge Condition:
mental status clear and coherent
level of consciousness alert and oriented
Activity status ambulates/independant

 
Discharge Instructions:
 You were transferred for a heart catheterization to evaluate 
symptoms of chest pain called unstable angina. This showed a 
blockage in the LAD heart artery. A drug coated stent was placed 
to reopen this blockage.
Your blood work showed you had a heart attack meaning some of 
your heart's muscle was injured. Your cardiologist or primary 
care physician ___ order an echocardiogram test to assess the 
level of injury to your heart's muscle.

 Please continue you home medicines. Additionally you will take 
ticagrelor 90 mg twice a day without interruption for 12 months. 
Aspirin 81 mg and ticagrelor work to decrease the risk for a 
bloodclot from forming in the stent. You will take aspirin every 
day for life. Do not stop either unless told to only by your 
heart doctor. Stopping aspirin or ticagrelor sooner than 12 
months may put you at risk for a life threatening heart attack. 
Atorvastatin 80 mg has also been started to treat cholesterol 
and to to help decrease inflammation in your heart.

Your blood work also showed that your blood sugar was elevated. 
While you do not have diabetes you are at an increased risk for 
developing diabetes and this should be followed closely by your 
primary doctor. To decrease your risk of developing diabetes 
decrease your intake of processed foods and simple carbohydrates 
like white bread, sweets and sugar.  Increase your consumption 
of plant based foods: vegetables, fruit, and whole grains.
Dr. ___ is a cardiologist at ___ and ___ appointment has 
been scheduled for you on ___ at 2pm.
 You have been given a list of cardiac rehab programs. This is 
an important part of your recovery. Please check out those near 
you and review at follow up with your doctor when to start a 
program.
 
 
Followup Instructions:
___